US04777270
A mixture of methyl 5-t-octylsalicylate (37.7 g, 0.143 mole), 2-(2-[2-(2-chloroethoxy)ethoxy]ethoxy)tetrahydropyran (54 g, 0.214 mole), potassium carbonate (28 g, 0.217 mole) and N,N-dimethylformamide (250 ml) was heated at 140° C., under nitrogen, for 18 hours, with stirring. The mixture was cooled, diluted with ether, and then washed liberally with saturated sodium chloride solution. The ethereal solution was dried (MgSO4) and evaporated in vacuo to give an oil, which was chromatographed on silica gel to give 46 g of methyl 2-(2-[2-(2-[2-tetrahydropyranyloxy]ethoxy)ethoxy]ethoxy)-5-t-octylsalicylate.

reactant | methyl 5-t-octylsalicylate | 0.143 mole, 37.7 g | C(C)(C)(CC(C)(C)C)C1=CC=C(C(C(=O)OC)=C1)O | C16H24O3
reactant | 2-(2-[2-(2-chloroethoxy)ethoxy]ethoxy)tetrahydropyran | 0.214 mole, 54 g | ClCCOCCOCCOC1OCCCC1 | C11H21ClO4
reactant | potassium carbonate | 0.217 mole, 28 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | methyl 2-(2-[2-(2-[2-tetrahydropyranyloxy]ethoxy)ethoxy]ethoxy)-5-t-octylsalicylate | 46 g | O1C(CCCC1)OCCOCCOCCOC1(C(C(=O)OC)C=C(C=C1)C(C)(C)CC(C)(C)C)O | C27H46O8
